US04167638
B. 6-(6-Methoxy-4-methyl-8-quinolylamino)-N-(2-methyl-1-propyl)hexanamide.
A stirred mixture of 22.6 g (0.120 mole) of 8-amino-6-methoxy-4-methylquinoline and 29.6 g (0.118 mole) of 6-bromo-N-(2-methyl-1-propyl)-hexanamide was heated in an oil bath (130° ) while 12.2 g (16.8 ml; 0.120 mole) of triethylamine was added dropwise over 30 minutes. The temperature of the bath was kept at 130° for 30 minutes, at 150° for 60 minutes, between 150° and 190° for 30 minutes, and at 190° for 30 minutes. The mixture was cooled to room temperature then diluted with 25 ml of ethyl acetate. The solid that separated was collected on a filter, extracted with boiling ethyl acetate (3×100 ml), then discarded. The filtrate and extracts were combined, then concentrated in vacuo to a solid; yield 44 g. The solid was dissolved in 130 ml of dichloromethane and purified by elution chromatography on a column (8 cm dia× 40 cm) of silica gel (1000 g; activity III) using 1 l of dichloromethane-ether (1:1), followed by 2 l of ether, as eluents. The fractions (100 ml each) containing pure product were combined then concentrated in vacuo. The fractions containing mixtures were concentrated in vacuo then triturated with diethyl ether to yield 25.4 g (60.2%) of crude product. The product was suitable for further transformation. Analytically pure compound was readily obtained (84% recovery) by recrystallization from methylene chloride and ether; mp 111°-112°.

reactant | 8-amino-6-methoxy-4-methylquinoline | 0.120 mole, 22.6 g | NC=1C=C(C=C2C(=CC=NC12)C)OC | C11H12N2O
reactant | 6-bromo-N-(2-methyl-1-propyl)-hexanamide | 0.118 mole, 29.6 g | BrCCCCCC(=O)NCC(C)C | C10H20BrNO
reactant | triethylamine | 0.120 mole, 16.8 ml, 12.2 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 6-(6-Methoxy-4-methyl-8-quinolylamino)-N-(2-methyl-1-propyl)hexanamide | 25.4 g, 60.2% | COC=1C=C2C(=CC=NC2=C(C1)NCCCCCC(=O)NCC(C)C)C | C21H31N3O2
